US05489602
A mixture of N-(1-benzyl-2-oxopropyl)malonamidic acid ethyl ester (7.0 g), phosphorus oxychloride (POCl3) (5.8 g) and toluene (40 ml) was stirred under refluxing conditions for 1 hour. The reaction mixture was concentrated under reduced pressure; the residue was then neutralized with a saturated aqueous solution of sodium hydrogen carbonate and extracted with ethyl acetate. After the ethyl acetate layer was washed with water and dried (MgSO4), the solvent was distilled off under reduced pressure and the residue was subjected to silica gel chromatography. From the fraction eluted with hexane-ethyl acetate (1:3, v/v), ethyl 2-(4-benzyl-5-methyl-2-oxazolyl)acetate (4.76 g, 63%) was obtained as an oily substance.

reactant | N-(1-benzyl-2-oxopropyl)malonamidic acid ethyl ester | 7.0 g | C(C)OC(CC(=O)NC(C(C)=O)CC1=CC=CC=C1)=O | C15H19NO4
reactant | phosphorus oxychloride | 5.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-(4-benzyl-5-methyl-2-oxazolyl)acetate | 4.76 g, 63% | C(C1=CC=CC=C1)C=1N=C(OC1C)CC(=O)OCC | C15H17NO3
